US07138410B2
(4′-{[(3R)-1-Azabicyclo[2.2.2]oct-3-ylcarbonyl]amino}-1,1′-biphenyl-4-yl)methyl Methylcarbamate
35 mg (0.10 mmol) of (3R)-N-[4′-(hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo-[2.2.2]octane-3-carboxamide are dissolved in 1 ml of a 1:1 THF/DMF mixture. 12 mg (0.21 mmol) of methyl isocyanate are added, and the mixture is stirred at 60° C. overnight. The solvent is removed under reduced pressure, and the crude product is purified by preparative HPLC. 20 mg (49% of theory) of the title compound are obtained.

reactant | (3R)-N-[4′-(hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo-[2.2.2]octane-3-carboxamide | 0.10 mmol, 35 mg | OCC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | C21H24N2O2
reactant | methyl isocyanate | 0.21 mmol, 12 mg | CN=C=O | C2H3NO
solvent | THF DMF | 1 ml | C1CCOC1.CN(C)C=O
product | (4′-{[(3R)-1-Azabicyclo[2.2.2]oct-3-ylcarbonyl]amino}-1,1′-biphenyl-4-yl)methyl Methylcarbamate | CNC(OCC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2)=O | C23H27N3O3
